US05595685
Then, in a 500 ml-three-necked flask, 11.6 g (35.0 mM) of 2-decyl-5-(4-methoxyphenyl)tiazole, 93 ml of acetic acid and 102 ml of 47%-hydrobromic acid were placed, followed by heat-stirring for 16 hours at 100°-110° C. After the reaction, the reaction mixture was poured into cool water, followed by extraction with benzene. The organic layer was successively washed with water, 5%-sodium hydrogenecarbonate aqueous solution and water, followed by distilling-off of the solvent under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform) and recrystallized from toluene to obtain 7.0 g of 2-decyl-5-(4-hydroxyphenyl )thiazole (Yield: 63.1%).

reactant | 2-decyl-5-(4-methoxyphenyl)tiazole | 35.0 mM, 11.6 g | C(CCCCCCCCC)C=1SC(=CN1)C1=CC=C(C=C1)OC | C20H29NOS
reactant | acetic acid | 93 ml | C(C)(=O)O | C2H4O2
reactant | hydrobromic acid | Br | BrH
solvent | water | O | H2O
product | 2-decyl-5-(4-hydroxyphenyl )thiazole | 7.0 g, Yield: 63.1% | C(CCCCCCCCC)C=1SC(=CN1)C1=CC=C(C=C1)O | C19H27NOS
